US04289772
4-(Pyrid-4-yl)butyric acid hydrochloride (ca. 35 g) in dichloroethane (250 ml) and dimethylformamide (0.5 ml) was treated with thionyl chloride (100 ml). The vigorous exothermic reaction was allowed to subside and then the mixture was heated under reflux for 10 minutes, followed by evaporation to dryness in vacuo to give crude 4-(pyrid-4-yl)butyroyl chloride hydrochloride.

reactant | 4-(Pyrid-4-yl)butyric acid hydrochloride | ca. 35 g | Cl.N1=CC=C(C=C1)CCCC(=O)O
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloroethane | 250 ml | ClC(C)Cl | C2H4Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 4-(pyrid-4-yl)butyroyl chloride hydrochloride | Cl.N1=CC=C(C=C1)CCCC(=O)Cl | InChI=1S/C9H10ClNO.ClH/c10-9(12)3-1-2-8-4-6-11-7-5-8;/h4-7H,1-3H2;1H
